US09428499B2
Step-a: Preparation of ethyl 2-methyl-2-(3-nitrophenoxy)propanoate
To a solution of 3-nitrophenol (7.5 g, 53.9 mmol) and ethyl 2-bromo-2-methylpropanoate (12.62 g, 64.7 mmol) in DMF (25 ml) was added K2CO3 (14.90 g, 108 mmol). After stirring at rt for 16 hr, the reaction mixture was concentrated under vacuum. The residue was diluted with water and extracted with ethyl acetate (3×30 ml), the combined organic layer was washed with NaOH solution (10%, 75 mL), water (75 mL) and brine, dried over sodium sulphate and concentrated under vacuum to give the title product (6.7 g).

reactant | 3-nitrophenol | 53.9 mmol, 7.5 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | ethyl 2-bromo-2-methylpropanoate | 64.7 mmol, 12.62 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | K2CO3 | 108 mmol, 14.90 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | ethyl 2-methyl-2-(3-nitrophenoxy)propanoate | 6.7 g | CC(C(=O)OCC)(C)OC1=CC(=CC=C1)[N+](=O)[O-] | C12H15NO5
